US08476449B2
Synthesis of (Z)-ethyl-2-(5-oxo-2-thioxo-4-((5-(3-(tributylstannyl)phenyl)furan-2-yl)methylene)imidazolidin-1-yl)acetate (labeling precursor 2)
5-(3-(Tributylstannyl)phenyl)furan-2-carbaldehyde (10 mg, 0.022 mmol) synthesized by the same method as in Example 4 and ethyl-2-(5-oxo-2-thioxoimidazolidin-1-yl)acetate (4.4 mg, 0.022 mmol) synthesized by the same method as in Example 2 were dissolved in dichloromethane (3 mL), piperidine (5 μL) was added thereto, and the mixture was stirred at room temperature (25° C.) overnight. After the reaction was completed the solvent was removed by evaporation under reduced pressure, and the residue was subjected to silica gel column chromatography using ethyl acetate/hexane (3/7 (volume ratio)) as an eluent, to give labeling precursor 2 in a yield of 11 mg (74.0%).

reactant | 5-(3-(Tributylstannyl)phenyl)furan-2-carbaldehyde | 0.022 mmol, 10 mg | C(CCC)[Sn](C=1C=C(C=CC1)C1=CC=C(O1)C=O)(CCCC)CCCC
reactant | ethyl-2-(5-oxo-2-thioxoimidazolidin-1-yl)acetate | 0.022 mmol, 4.4 mg | C(C)OC(CN1C(NCC1=O)=S)=O | C7H10N2O3S
reactant | piperidine | 5 μL | N1CCCCC1 | C5H11N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (Z)-ethyl-2-(5-oxo-2-thioxo-4-((5-(3-(tributylstannyl)phenyl)furan-2-yl)methylene)imidazolidin-1-yl)acetate | C(C)OC(CN1C(N\C(\C1=O)=C/C=1OC(=CC1)C1=CC(=CC=C1)[Sn](CCCC)(CCCC)CCCC)=S)=O | InChI=1S/C18H15N2O4S.3C4H9.Sn/c1-2-23-16(21)11-20-17(22)14(19-18(20)25)10-13-8-9-15(24-13)12-6-4-3-5-7-12;3*1-3-4-2;/h3-4,6-10H,2,11H2,1H3,(H,19,25);3*1,3-4H2,2H3;/b14-10-;;;;
